US08304438B2
(a) 3-(6-Bromo-pyridin-2-yl)-acrylic Acid
10 g (53.8 mmol) of 6-bromo-pyridine-2-carbaldehyde were dissolved in 70 ml of pyridine and 6.73 g (64.5 mmol) of malonic acid and 457 mg (5.4 mmol) of piperidine were added. The reaction mixture was boiled under reflux for 6 h. The solution was cooled to room temperature and then poured onto ice. Concentrated hydrochloric acid was added until pH=5, whereupon the product precipitated. The product was isolated by filtration and dried under reduced pressure. Yield: 9.85 g.

reactant | 6-bromo-pyridine-2-carbaldehyde | 53.8 mmol, 10 g | BrC1=CC=CC(=N1)C=O | C6H4BrNO
reactant | malonic acid | 64.5 mmol, 6.73 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 5.4 mmol, 457 mg | N1CCCCC1 | C5H11N
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 70 ml | N1=CC=CC=C1 | C5H5N
product | 3-(6-Bromo-pyridin-2-yl)-acrylic Acid | BrC1=CC=CC(=N1)C=CC(=O)O | C8H6BrNO2
